US05512183
Preparation of Copoly(Diisobutylene/Isopropenylphosphonic Acid)
A high pressure autoclave was charged with 0.11 moles of isopropenylphosphonic acid and 0.132 moles of diisobutylene in ethylene glycol dimethyl ether. The components were reacted for 4 hours at 80° to 82° C. Benzoyl peroxide was used as the polymer initiator. 13C and 31P nuclear magnetic resonance spectra indicated approximately 10 to 30% incorporation of diisobutylene into the polymer reaction product.

reactant | isopropenylphosphonic acid | 0.11 moles | C(=C)(C)P(O)(O)=O | C3H7O3P
reactant | diisobutylene | 0.132 moles | CC(=C)CC(C)(C)C | C8H16
reactant | Benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
product | Diisobutylene Isopropenylphosphonic Acid | CC(=C)CC(C)(C)C.C(=C)(C)P(O)(O)=O | InChI=1S/C8H16.C3H7O3P/c1-7(2)6-8(3,4)5;1-3(2)7(4,5)6/h1,6H2,2-5H3;1H2,2H3,(H2,4,5,6)
